US08735385B2
{4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenyl}-carbamic acid benzyl ester
4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenylamine (0.85 g, 2.4 mmol) was dissolved in DCM (20 mL). To this solution was transferred a solution of CbzCl (560 mg, 3.28 mmol, 1.3 equiv.) in 5 mL of DCM, followed by addition of powder anhydrous K2CO3 (0.99 g, 7.2 mmol, 3 equiv.). The reaction mixture was stirred at 0° C. to rt. overnight. The reaction was quenched by dilution with DCM (10 mL), followed by addition of NaHCO3 aq. (5 mL). The two layers were separated and the aqueous layer was extracted with DCM (2×5 mL). The combined extracts were washed with NaHCO3 aq. (5 mL), brine (5 mL) and dried (K2CO3). The solution was filtered and the filtrate was concentrated in vacuo to obtain the title compound.

reactant | 4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenylamine | 2.4 mmol, 0.85 g | C(C)(C)(C)[Si](OC1CCC(CC1)C1=CC(=C(C=C1)N)F)(C)C | C18H30FNOSi
reactant | CbzCl | 3.28 mmol, 560 mg, 1.3 equiv. | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | K2CO3 | 7.2 mmol, 0.99 g, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | {4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1)C1CCC(CC1)O[Si](C)(C)C(C)(C)C)F)=O | C26H36FNO3Si
